US09290475B2
A number of deuterated glutamines (starting material for preparing Compound B) have previously been made, including 2,3,4-trideutero-glutamine (i.e., R2=D, R4=D, and Z=D), which was made via the deuterium reduction of 6-carboxy-3(2H)-pyridazone (see Stogniew, J. Labelled Compounds and Radiopharmaceuticals 1981, 18(6), 897-903), and 2,2,3,3,4 pentadeutero-glutamine (i.e., R2-R5=D and Z=D), which was obtained in a multi-step synthesis (see Blomquist, J. Org. Chem. 1966, 12, 4121-27). Stogniew also notes that the 5-mono-deutero-glutamine could be obtained through deuterium reduction of 4,5-dihydro-6-carboxy-3(2H)-pyridazone.

reactant | 2,3,4-trideutero-glutamine | [2H][C@](N)(C(C(C(N)=O)[2H])[2H])C(=O)O | C5H10N2O3
reactant | 6-carboxy-3(2H)-pyridazone | C(=O)(O)C=1C=CC(NN1)=O | C5H4N2O3
product | 4,5-dihydro-6-carboxy-3(2H)-pyridazone | C(=O)(O)C=1CCC(NN1)=O | C5H6N2O3
